US07538121B2
N-Quinolin-7-yl-6-(4-trifluoromethylphenyl)-nicotinamide
To a solution of 6-chloro-N-quinolin-7-yl-nicotinamide (D70) (40 mg, 0.14 mmol) in DME (0.9 ml) under an argon atmosphere was added 4-trifluoromethylphenylboronic acid (33 mg, 0.17 mmol), 2M sodium carbonate solution (0.17 ml) and tetrakis(triphenylphosphine)palladium (0) (8 mg, 0.007 mmol). The reaction was heated at reflux until complete by tlc, then cooled to room temperature and diluted with EtOAc and dried over MgSO4. The solvent was removed in vacuo and the resultant crude product was purified by SPE column chromatography. Elution with 75% EtOAc in 40-60° C. petroleum ether gave the title compound as an off-white solid. 1H NMR (250 MHz, CDCl3) δ (ppm): 9.31 (dd, 1H), 8.83 (dd, 1H), 8.46 (dd, 1H), 8.39 (dd, 1H), 8.20 (m, 3H), 8.07 (d, 1H), 7.94 (dd, 1H), 7.89 (d, 1H), 7.79 (d, 2H), 7.40 (dd, 1H).

reactant | 6-chloro-N-quinolin-7-yl-nicotinamide | 0.14 mmol, 40 mg | ClC1=NC=C(C(=O)NC2=CC=C3C=CC=NC3=C2)C=C1 | C15H10ClN3O
reactant | 4-trifluoromethylphenylboronic acid | 0.17 mmol, 33 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2M, 0.17 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 0.9 ml | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.007 mmol, 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Quinolin-7-yl-6-(4-trifluoromethylphenyl)-nicotinamide | N1=CC=CC2=CC=C(C=C12)NC(C1=CN=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C22H14F3N3O
